### ISSUE TITLE
issue: `Lean.ConstantInfo.value?` cannot find all refs

### ISSUE THREAD

**Issue by pelicanhere** [reaslab/jixia#24]
### Description

When extracting constant dependencies by traversing the expression returned by `Lean.ConstantInfo.value?`, some lemmas used in the proof do not appear.

### MWE

```lean
import Mathlib

variable {R : Type u}

open Polynomial

variable [Semiring R]

theorem test [DecidableEq R] (i : ℕ) (r : R) :
    natDegree (monomial i r) = if r = 0 then 0 else i := by
  split_ifs with hr
  · simp only [hr, monomial_zero_right, natDegree_zero]
  · rw [← C_mul_X_pow_eq_monomial, natDegree_C_mul_X_pow i r hr]

open Lean in
run_cmd do
  let env ← getEnv
  match env.find? ``test >>= fun info => info.value? with
  | some value => IO.println s!"{value}"
  | none => IO.println "none"
```

### Issue

Although `natDegree_zero` is explicitly used in the proof, it does not appear among the constants referenced in `info.value?`.

### Context

This comes up when using the same function as in:

```lean
/Analyzer/Process/Symbol.lean
let valueReferences := info.value?.map references
```

**Comment by tonyxty** [comment]
It seems to be related to the fact that `natDegree_zero` is just `rfl` and will probably get eliminated at elaboration time. Can you confirm this with some other examples?

On the other hand, if you do want to include `natDegree_zero` since it appears at source code level, have a look at [this function](https://github.com/frenzymath/jixia_py/blob/749b42ea4c2f33c3f7abf2ad4c1686b4e612b92f/src/jixia/walk.py#L4) from `jixia_py`.

**Comment by tonyxty** [comment]
After some research, this is not exactly true. `mul_smul_one` seem to reference `smul_eq_mul`, whose proof is just `rfl`.  It might be a feature of `simp` that automatically eliminates `rfl` though.

**Comment by pelicanhere** [comment]
Thanks for the explanation! I think I understand what’s happening now.

When `simp` uses `natDegree_zero`, the lemma is elaborated into a [SimpTheorem](https://leanprover-community.github.io/mathlib4_docs/Lean/Meta/Tactic/Simp/SimpTheorems.html#Lean.Meta.SimpTheorem) and stored in a `SimpTheorems` set. Applying this rewrite rule produces a [Result](https://leanprover-community.github.io/mathlib4_docs/Lean/Meta/Tactic/Simp/Types.html#Lean.Meta.Simp.Result) which contains the rewritten `expr` and an optional `proof?`.

Since `natDegree_zero` is marked as an `rfl` simp theorem, `simp` may use an implicit definitional-equality proof. In that case, it sets `proof?` to `none`, so no explicit application of the `natDegree_zero` constant appears in the generated proof stored in `info.value?`.

The relevant implementation is in [Lean/Meta/Tactic/Simp/Rewrite.lean](https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Simp/Rewrite.lean#L109-L129):

```lean
private def useImplicitDefEqProof (thm : SimpTheorem) : SimpM Bool := do
  if thm.rfl ||
      (thm.backwardRfl &&
        backward.defeqAttrib.useBackward.get (← getOptions)) then
    return (← getConfig).implicitDefEqProofs
  else
    return false

-- ...

let proof? ← if (← useImplicitDefEqProof thm) then
  pure none
else
  let proof ← instantiateMVars (mkAppN val xs)
  if (← hasAssignableMVar proof) then
    return none
  pure <| some proof
```

This optimization can be disabled by setting `implicitDefEqProofs` to `false`:

```lean
simp (config := { implicitDefEqProofs := false }) [hr, monomial_zero_right, natDegree_zero]
```

Then `simp` explicitly constructs the instantiated proof using `mkAppN val xs`, allowing the resulting proof term to retain a reference to `natDegree_zero`.

**Comment by tonyxty** [comment]
By the way, in case "proof closure" is desired, the "source-level reference" function mentioned above seems more appropriate.
